US03974186
2,6-BIS[3-(DIETHYLAMINO)PROPOXY]ANTHRAQUINONE DIHYDROCHLORIDE
A mixture of 12 g. (0.05 mole) of 2,6-dihydroxyanthraquinone, 16.5 g (0.11 mole) of 3-diethylaminopropyl chloride, 48 ml. of 10% sodium hydroxide solution, and 100 ml. of dimethylsulfoxide was stirred and heated on a steam bath for two hours. When cool, the mixture was poured into about 500 ml. of water. The solid which precipitated was filtered with suction and washed with water. The crude wet solid was dissolved in chloroform. This solution was dried over anhydrous magnesium sulfate, filtered, and the filtrate acidified to Congo Red with ethereal hydrogen chloride. After dilution with anhydrous ether, the yellow solid was filtered and dried. After two recrystallizations from 95% ethanol, the dihydrochloride (a hydrate) melted with decomposition at 273.5°-274.5°C; γmax (H2O) 274, E1cm1% 761.

reactant | 2,6-dihydroxyanthraquinone | 0.05 mole | OC1=CC=2C(C3=CC=C(C=C3C(C2C=C1)=O)O)=O | C14H8O4
reactant | 3-diethylaminopropyl chloride | 0.11 mole, 16.5 g | C(C)N(CCCCl)CC | C7H16ClN
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2,6-BIS[3-(DIETHYLAMINO)PROPOXY]ANTHRAQUINONE DIHYDROCHLORIDE | Cl.Cl.C(C)N(CCCOC1=CC=2C(C3=CC=C(C=C3C(C2C=C1)=O)OCCCN(CC)CC)=O)CC | InChI=1S/C28H38N2O4.2ClH/c1-5-29(6-2)15-9-17-33-21-11-13-23-25(19-21)27(31)24-14-12-22(20-26(24)28(23)32)34-18-10-16-30(7-3)8-4;;/h11-14,19-20H,5-10,15-18H2,1-4H3;2*1H
